US06025106
A monomer composition for core consisting of 78 parts of styrene and 22 parts of n-butyl acrylate (giving a copolymer having a calculated glass transition temperature of 50° C.), 7 parts of carbon black (`Printex 150T` trade name; produced by Degussa AG), 1 part of charge control agent (`Aizen Spilon Black TRH` trade name, produced by HODOGAYA Chemical Co.), 0.3 part of divinylbenzene, 0.8 part of poly-methacrylate macromonomer (`AA6` trade name, glass transition temperature of 94° C., produced by TOA GOUSEI Chemical Industries Co., Ltd.), and 10 parts of penta-erythritol-tetra-stearate were dispersed with a homo mixer(TK Type, produced by TOKUSHUKIKAKOU Co.) of 12,000 rpm to obtain a core monomer mixture.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
reactant | carbon black | C | CH4
product | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
